US04609669
5 g of n-Propylamine were added to 2.38 g of 2-[2,6-dichoro-4-(2,2,2-trifluoroethylthio)-phenoxy]-ethyl bromide, and the mixture was stirred at room temperature for 8 hours and then under reflux for 3 hours. The excess of n-propylamine was evaporated. To the residue were added 20 ml of water, 20 ml of a 5% aqueous solution of potassium hydroxide and 100 ml of toluene. The mixture was stirred, and the organic layer was separated, washed with water and dried over anhydrous sodium sulfate. Low-boiling compounds were evaporated under reduced pressure. There were obtained 2.16 g of crude N-{2-[2,6-dichloro-4-(2,2,2-trifluoroethylthio)-phenoxy]-ethyl}-N-(propyl)amine having a refractive indes of nD2O=1.5210, which were used without further purification) for the preparation of compound No. 1 shown above.

reactant | n-Propylamine | 5 g | C(CC)N | C3H9N
reactant | 2-[2,6-dichoro-4-(2,2,2-trifluoroethylthio)-phenoxy]-ethyl bromide | 2.38 g | ClC1=C(OCCBr)C(=CC(=C1)SCC(F)(F)F)Cl | C10H8BrCl2F3OS
product | N-{2-[2,6-dichloro-4-(2,2,2-trifluoroethylthio)-phenoxy]-ethyl}-N-(propyl)amine | 2.16 g | ClC1=C(OCCNCCC)C(=CC(=C1)SCC(F)(F)F)Cl | C13H16Cl2F3NOS
